US06586617B1
Synthesis of 2′,4′-Dicyano-N-isopropyl-p-toluenesulfonanilide (Compound No. 114)
To a suspension of sodium hydride (65%, 0.12 g (3.30 mmol)) in 6.0 ml of DMF, 2′,4′-dicyano-p-toluenesulfonanilide (0.49 g (1.65 mmol)) was added with stirring at room temperature. To the resulting mixture, after 10 minutes' stirring at room temperature, isopropyl iodide (0.50 ml (4.94 mmol)) was added and the mixture was heated at 130° C. for 6 hours with stirring. The reaction mixture was then cooled to room temperature, poured into water and extracted with diethyl ether. The extract was washed with 1% aqueous sodium hydroxide solution and with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (3:7) as eluent, to give 0.07 g (13%) of the title compound as white crystals.

reactant | sodium hydride | 3.30 mmol, 0.12 g | [H-].[Na+]
reactant | 2′,4′-dicyano-p-toluenesulfonanilide | 1.65 mmol, 0.49 g | C(#N)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)C#N | C15H11N3O2S
reactant | isopropyl iodide | 4.94 mmol, 0.50 ml | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | DMF | 6.0 ml | CN(C)C=O | C3H7NO
product | 2′,4′-Dicyano-N-isopropyl-p-toluenesulfonanilide | 0.07 g, 13% | C(#N)C1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C(C)C)C=CC(=C1)C#N | C18H17N3O2S
